US05206229
To a solution of 7-bromo-2-methyl-2-trimethylsilyloxyheptane (10) (14.0 g) in methanol (55 ml) at room temperature was added ethanolic hydrogen chloride (ca. 1M, 0.2 ml). After 10 minutes the solution was concentrated in vacuo (at room temperature) to constant weight. The residue was taken up in chloroform and reconcentrated to constant weight to give 7-bromo-2-methyl-2-heptanol (H, n=4, R1 =R2 =Me) as a chromatographically homogenous oil. The product was dissolved in THF (10 ml) and added to a premixed, stirred solution of potassium tert-butoxide (6.7 g) and thiophenol (3.6 ml) in N,N-dimethylformamide (50 ml) at room temperature. After a few minutes a precipitate started forming, and after 30 minutes the mixture was partitioned between ethyl acetate (300 ml) and water (200 ml). The organic layer was washed consecutively with 2N sodium hydroxide solution, water and brine. Drying and concentration in vacuo gave 6-hydroxy-6-methylheptyl phenyl sulphide as a chromatographically homogenous oil. This was dissolved in methanol (60 ml), and to the stirred solution was added sodium hydrogen carbonate (4.7 g), aqueous sodium tungstate solution (2%, 5 ml) and hydrogen peroxide (100 vol, 11.8 ml). The initial exothermic reaction which ensued was checked by momentary ice-cooling. The reaction mixture was then stirred at 50° C. for 1 hour. After cooling, the mixture was partitioned between dichloromethane (200 ml) and water. The aqueous layer was extracted with more dichloromethane, and the combined dichloromethane layers were washed with water, brine, and dried. Concentration in vacuo gave a crude product which was purified by chromatography (150 g silica gel; ether as eluant) to give the sulphone (13) as a viscous oil, δ (300 MHz) 1.18 (6H, s), 1.4 (7H, m), 1.75 (2H, m), 3.09 (2H, m), 7.5-7.75 (3H, m), 7.90 (2H, m).

reactant | potassium tert-butoxide | 6.7 g | CC(C)([O-])C.[K+]
reactant | thiophenol | 3.6 ml | C1(=CC=CC=C1)S | C6H6S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-hydroxy-6-methylheptyl phenyl sulphide | C1(=CC=CC=C1)SCCCCCC(C)(C)O | C14H22OS
